* SH8J62 PMOSFET model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2011/06/15
***************D G S
.SUBCKT SH8J62 1 2 3
M1   11 22 3 3 MOS_P
D1         1 3 DDS
R1        1 11 RTH 24.2m
D2       11 22 DDG
R2        2 22 38
.MODEL MOS_P PMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=1
+ KP=42.729E-6
+ RS=10.000E-3
+ RD=0
+ VTO=-2.1324
+ RDS=30.000E6
+ TOX=2.0000E-6
+ CGSO=656p
+ CGDO=50p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=0.8
+ ETA=0.002
+ KAPPA=0
+ UO=300
+ NFS=17G
.MODEL DDS D
+ IS=5.0716E-12
+ N=1.1033
+ RS=13.265E-3
+ IKF=1.1689
+ CJO=85.817E-12
+ M=.85962
+ VJ=.8936
+ BV=30
+ TT=20n
.MODEL DDG D
+ CJO=251.78E-12
+ M=.5401
+ VJ=.75578
+ N=10000
+ FC=-2.4
.MODEL RTH RES
+ TC1=0.005
+ TC2=0
.ENDS SH8J62
